US04711968
Hydroformylation of C16 -C18Gas Oil with Tri-i-butyl Phosphine Rhodium Complex at 180° C. and 1000 psi
About 100 g of the above distillate feed was hydroformylated using the low pressure hydroformylation procedure under 1000 psi 1/1 H2 /CO pressure at 180° C. in the presence of 2 mM rhodium and 140 mM triisobutyl phosphine.

reactant | rhodium | 2 mM | [Rh] | Rh
reactant | triisobutyl phosphine | 140 mM | C(C(C)C)P(CC(C)C)CC(C)C | C12H27P
product | Tri-i-butyl Phosphine Rhodium | [Rh].C(C(C)C)P(CC(C)C)CC(C)C | InChI=1S/C12H27P.Rh/c1-10(2)7-13(8-11(3)4)9-12(5)6;/h10-12H,7-9H2,1-6H3;
